US09216988B2
Step 1: (S)—N-(1-(4-Bromophenyl)ethyl)(phenyl)methanesulfonamide
Phenylmethanesulfonyl chloride (28.1 g, 147.7 mmol) was added into a solution of (S)-1-(4-bromophenyl)ethanamine (28.0 g, 140.7 mmol) and triethylamine (21.3 g, 211.1 mmol) in dichloromethane (400 mL) drop wise at 0° C. The reaction mixture was stirred at ambient temperature for 12 hours. The reaction solution was then washed with dilute aqueous HCl, saturated aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered, and concentrated to provide the title compound (35.3 g, 71% yield) as pale yellow solid which was used in the next step without further purification.

reactant | Phenylmethanesulfonyl chloride | 147.7 mmol, 28.1 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | (S)-1-(4-bromophenyl)ethanamine | 140.7 mmol, 28.0 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | triethylamine | 211.1 mmol, 21.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (S)—N-(1-(4-Bromophenyl)ethyl)(phenyl)methanesulfonamide | 35.3 g, 71% yield | BrC1=CC=C(C=C1)[C@H](C)NS(=O)(=O)CC1=CC=CC=C1 | C15H16BrNO2S
